US07494992B2
Preparation 87: Piperidin-4-yl butylcarbamate
1-(Phenylmethyl)piperidin-4-yl butylcarbamate (Preparation 109, 13.0 g) in ethanol (100 ml) containing palladium (5% on carbon) was hydrogenated at 60 psi to give the title compound as a green oil that solidified upon standing.

reactant | 1-(Phenylmethyl)piperidin-4-yl butylcarbamate | 13.0 g | C(CCC)NC(OC1CCN(CC1)CC1=CC=CC=C1)=O | C17H26N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | Piperidin-4-yl butylcarbamate | C(CCC)NC(OC1CCNCC1)=O | C10H20N2O2
